US08247403B2
(1) tert-butyl 7-(2-methylphenyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A mixture of tert-butyl 7-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (200 mg, 0.609 mmol), a solution of 2-methylphenylboronic acid (124 mg, 0.912 mmol) in ethanol (0.7 ml), 2N aqueous sodium carbonate solution (2.5 ml), and tetrakis(triphenylphosphine)palladium(0) (84.2 mg, 0.0729 mmol) in toluene (5 ml) was stirred under a nitrogen atmosphere at 95° C. for 12 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give the desired product (200 mg, 96.6%) as an oil.

reactant | tert-butyl 7-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.609 mmol, 200 mg | BrC=1C=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C1 | C14H18BrNO3
reactant | 2-methylphenylboronic acid | 0.912 mmol, 124 mg | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | water | O | H2O
solvent | ethanol | 0.7 ml | C(C)O | C2H6O
solvent | sodium carbonate | 2N, 2.5 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0729 mmol, 84.2 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 7-(2-methylphenyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 200 mg, 96.6% | CC1=C(C=CC=C1)C=1C=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C1 | C21H25NO3
